US04603012
N-Boc-1-amino-1-cyclopropanecarboxylic acid is dissolved in tetrahydrofuran and stirred at 0° C. under argon. Bis(N-methylpiperazinyl)aluminum hydride is added and the reaction mixture is heated to reflux overnight. Ether is then added, and the excess hydride is quenched with saturated NaCl. The aqueous phase is separated and extracted with ether. The combined organic phases are washed with 2M NaOH, 2M HCl and saturated NaCl. The solution is dried over Na2SO4 and evaporated to yield N-Boc-1-amino-1-cyclopropanecarboxaldehyde.

reactant | N-Boc-1-amino-1-cyclopropanecarboxylic acid | C(=O)(OC(C)(C)C)NC1(CC1)C(=O)O | C9H15NO4
reactant | Bis(N-methylpiperazinyl)aluminum hydride | [H-].CN1C(CNCC1)[Al+]C1N(CCNC1)C
reactant | Ether | CCOCC | C4H10O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N-Boc-1-amino-1-cyclopropanecarboxaldehyde | C(=O)(OC(C)(C)C)NC1(CC1)C=O | C9H15NO3
